US07514452B2
A reaction was carried out in the same manner as in Reference Example 1 except that the 3-bromo-2-furancarboxylic acid used in Reference Example 1 was replaced with 3-bromo-4-methoxybenzoic acid (4.62 g). The crude product was purified by silica gel column chromatography (eluent: ethyl acetate/hexane=1/10), thereby giving 4.65 g of ethyl 3-bromo-4-methoxybenzoate.

reactant | 3-bromo-2-furancarboxylic acid | BrC1=C(OC=C1)C(=O)O | C5H3BrO3
reactant | 3-bromo-4-methoxybenzoic acid | 4.62 g | BrC=1C=C(C(=O)O)C=CC1OC | C8H7BrO3
product | ethyl 3-bromo-4-methoxybenzoate | 4.65 g | BrC=1C=C(C(=O)OCC)C=CC1OC | C10H11BrO3
